US07612075B2
5-Chloro-thiophene-2-carbonyl azide
To a solution of 5-chloro-2-thiophene-carboxylic acid (5.00 g, 30.7 mmol) in 130 mL of acetone is added Et3N (4.29 mL, 30.7 mmol). The mixture is cooled to 0° C. and ethyl chloroformate (3.23 mL, 33.8 mmol) is added. The mixture is stirred at 0° C. for 1 h and sodium azide (3.40 g, 52.3 mmol) is added. The mixture is stirred at 0° C. for 2 h, then poured into 300 mL of ice water and the aqueous layer is extracted with CH2Cl2 (2×). The combined organics are washed with water (2×) and brine, then dried, filtered and concentrated. The crude residue is purified via flash column chromatography eluting with 10% EtOAc/hexanes to provide the title compound (3.00 g, 16.0 mmol) as a white solid. 1H NMR (CDCl3, 300 MHz) δ7.67 (d, 1H), 6.99 (d, 1H).

reactant | 5-chloro-2-thiophene-carboxylic acid | 30.7 mmol, 5.00 g | ClC1=CC=C(S1)C(=O)O | C5H3ClO2S
reactant | Et3N | 30.7 mmol, 4.29 mL | CCN(CC)CC | C6H15N
reactant | ethyl chloroformate | 33.8 mmol, 3.23 mL | ClC(=O)OCC | C3H5ClO2
reactant | sodium azide | 52.3 mmol, 3.40 g | [N-]=[N+]=[N-].[Na+]
solvent | acetone | 130 mL | CC(=O)C | C3H6O
product | 5-Chloro-thiophene-2-carbonyl azide | 16.0 mmol, 3.00 g | ClC1=CC=C(S1)C(=O)N=[N+]=[N-] | C5H2ClN3OS
